* C:\Users\ilike\LTspice-projects\MOSFET_Op_amp.asc
* Generated by LTspice 24.1.10 for Windows.
M1 N002 Vin- N003 0 NMOS1 l=300n w=300n
M2 N001 Vin+ N003 0 NMOS1 l=300n w=300n
V1 Vdd 0 9V
V2 Vin+ 0 4.5
C1 Vin- N001 4.4pf
M3 N002 N002 Vdd Vdd PMOS1 l=300n w=600n
M4 N001 N002 Vdd Vdd PMOS1 l=300n w=600n
M6 Vin- N001 Vdd Vdd PMOS1 l=300n w=3300n
C2 Vin- 0 20pf
M5 N003 N004 0 0 NMOS1 l=300n w=3900n
M7 N004 N004 0 0 NMOS1 l=300n w=3900n
R1 Vdd N004 157.2k
M8 Vin- N004 0 0 NMOS1 l=300n w=11000n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ilike\AppData\Local\LTspice\lib\cmp\standard.mos
.dc V2 0 10 0.01
*.op
* Output Feedback For Buffer
.model NMOS1 NMOS (LEVEL=1 VTO=0.6  KP=200u LAMBDA=0.02)
.model PMOS1 PMOS (LEVEL=1 VTO=-0.6 KP=100u LAMBDA=0.02)
.backanno
.end
