* C:\Users\ilike\LTspice-projects\EE412\Lab2_2N3904_CB_inputstage_analysis.asc
* Generated by LTspice 24.1.10 for Windows.
Q1 N001 N002 N003 0 2N3904
R1 N003 0 1.5k
R2 Vcc N001 1.5k
R3 Vcc N002 38.7k
R4 N002 0 10k
C1 Vcc 0 3.3µ
V1 Vcc 0 10V
C2 N002 in 150n
V2 in 0 SINE(0 0.02 1meg) AC 1
C3 out N001 150n
R5 out 0 100Meg
.model NPN NPN
.model PNP PNP
.lib C:\Users\ilike\AppData\Local\LTspice\lib\cmp\standard.bjt
* .tran 1u
.ac dec 100 10 10000meg
.backanno
.end
