* C:\Users\ilike\LTspice-projects\EE412\lab2_2N3904_CB_CC.asc
* Generated by LTspice 24.1.10 for Windows.
Q1 N001 N002 N004 0 2N3904
R1 N004 0 1.5k
R2 Vcc N001 1.5k
R3 Vcc N002 38.7k
R4 N002 0 10k
C1 Vcc 0 3.3µ
V1 Vcc 0 10V
Q2 Vcc N001 N003 0 2N3904
R5 N003 0 1k
C4 in N004 150n
V2 in 0 SINE(0 0.02 1meg) AC 1
C2 out N003 150n
R6 out 0 10Meg
C3 N001 intermed 100n
R7 intermed 0 10Meg
.model NPN NPN
.model PNP PNP
.lib C:\Users\ilike\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 100 10 100meg
.backanno
.end
