* C:\Users\ilike\LTspice-projects\EE412\lab2_2N3904_CE.asc
* Generated by LTspice 24.1.10 for Windows.
Q1 N003 N004 0 0 2N3904
R1 N002 N004 100k
C1 N002 0 3.3µ
R2 N001 N003 4.7k
C2 0 N001 3.3µ
C3 N004 in 3.3µ
Vgs N002 0 1V
Vcc N001 0 10
C4 out N003 3.3µ
V1 in 0 AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\ilike\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 100 1 500meg
.backanno
.end
