* C:\Users\ilike\LTspice-projects\PMOS_diff_pair_PMOS_CS.asc
* Generated by LTspice 24.1.10 for Windows.
M1 Vo+ Vin-p N001 N001 PMOS1 l=300n w=3000n
M2 Vo- Vin+ N001 N001 PMOS1 l=300n w=3000n
I1 Vdd N001 120µ
M3 Vo+ Vo+ 0 0 NMOS1 l=300n w=300n
M4 Vo- Vo+ 0 0 NMOS1 l=300n w=300n
V2 Vin+ 0 2.4
V1 Vdd 0 5
V3 Vin-p 0 2.5
C1 Vo N002 4.4pf
I2 Vo 0 140µ
M5 Vo N002 Vdd Vdd PMOS1 l=300n w=3400n
C2 Vo 0 20pf
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ilike\AppData\Local\LTspice\lib\cmp\standard.mos
.op
.model NMOS1 NMOS (LEVEL=1 VTO=0.6  KP=200u LAMBDA=0.02)
.model PMOS1 PMOS (LEVEL=1 VTO=-0.6 KP=100u LAMBDA=0.02)
* .dc V2 0 5 0.01
.backanno
.end
